US05461078
(1) 9,10-bis-[N-(2-Dimethylaminoethyl)aminomethyl]anthracene
1.0 g (0.0036 mol) of 9,10-dichloromethylanthracene (0.0036 mol) is refluxed for 20 minutes with 15 g of 2-dimethylaminoethylamine. The reaction mixture is added to water and the precipitate collected by filtration. The dried solid is then recrystallised from ethyl acetate to yield 0.5 g of the title compound as yellow crystals, m.p. 58°-60° C.; λmax (distilled water) (E/cm/M) 248 nm (51760), 372 nm (9030), 392 nm (8305).

reactant | 9,10-dichloromethylanthracene | 0.0036 mol, 1.0 g | ClCC=1C2=CC=CC=C2C(=C2C=CC=CC12)CCl | C16H12Cl2
reactant | 2-dimethylaminoethylamine | 15 g | CN(CCN)C | C4H12N2
solvent | water | O | H2O
product | 9,10-bis-[N-(2-Dimethylaminoethyl)aminomethyl]anthracene | 0.5 g | CN(CCNCC=1C2=CC=CC=C2C(=C2C=CC=CC12)CNCCN(C)C)C | C24H34N4
